US05599812
Stage A: 6-chloro-3-nitro-2-(1-pyrrolyl)pyridine
The reaction is carried out in the same way as in Stage B of Example 90 but starting from 15.40 g (0.0887 mol) of 6-chloro-3-nitro-2-aminopyridine and by using 12.9 g (0.0976 mol; 1.1 eq) of 2,5-dimethoxytetrahydrofuran, 14.64 g (0.0976 mol; 1.1 eq) of 4-chloropyridine hydrochloride and 300 cm3 of 1,4-dioxane. The solution is brought to reflux for 6 h. At the end of the reaction, the precipitate is taken up in ethyl ether.

reactant | 6-chloro-3-nitro-2-aminopyridine | 0.0887 mol, 15.40 g | ClC1=CC=C(C(=N1)N)[N+](=O)[O-] | C5H4ClN3O2
reactant | 2,5-dimethoxytetrahydrofuran | 0.0976 mol, 12.9 g, 1.1 eq | COC1OC(CC1)OC | C6H12O3
reactant | 4-chloropyridine hydrochloride | 0.0976 mol, 14.64 g, 1.1 eq | Cl.ClC1=CC=NC=C1
reactant | 1,4-dioxane | 300 cm3 | O1CCOCC1 | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 6-chloro-3-nitro-2-(1-pyrrolyl)pyridine | ClC1=CC=C(C(=N1)N1C=CC=C1)[N+](=O)[O-] | C9H6ClN3O2
